US07163958B2
5a. 1-(((4S)-2,2-Dimethyl(1,3-dioxolan-4-yl))methoxy)-2,2-dimethyl-1,1-diphenyl-1-silapropane
To a solution of ((4R)-2,2-dimethyl-1,3-dioxolan-4-yl)methan-1-ol (9 g, 68.6 mmol) in anhydrous dichloromethane (40 mL) were added triethylamine (11.2 mL), tert-butylchlorodiphenylsilane (19.8 g, 372 mmol), and N,N-dimethylaminopyridine (DMAP, 418 mg, 3.4 mmol) at room temperature under a nitrogen atmosphere. The reaction mixture was stirred at room temperature overnight. It was then diluted with additional dichloromethane and the reaction mixture was washed with water, brine, dried over sodium sulfate, filtered and evaporated to give the title compound (27 g) which was used in the next step without further purification.

reactant | ((4R)-2,2-dimethyl-1,3-dioxolan-4-yl)methan-1-ol | 68.6 mmol, 9 g | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | triethylamine | 11.2 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodiphenylsilane | 372 mmol, 19.8 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-(((4S)-2,2-Dimethyl(1,3-dioxolan-4-yl))methoxy)-2,2-dimethyl-1,1-diphenyl-1-silapropane | 27 g | CC1(OC[C@H](O1)CO[Si](C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C22H30O3Si
